US06908913B2
A crude compound (261 mg) of 4-nitrobenzyl (1S,5R,6S)-2-[7-[(2S,4S)-4-azido-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate was prepared in the same manner as in Example, except that 157 mg of 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate and 321 mg of 7-[(2S,4S)-4-azido-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]carbonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole were used as the starting compounds.

reactant | 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 157 mg | O[C@H](C)[C@@H]1[C@@H]2N([C@H](C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H18N2O7
reactant | 7-[(2S,4S)-4-azido-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]carbonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 321 mg | N(=[N+]=[N-])[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)C=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC
product | 4-nitrobenzyl (1S,5R,6S)-2-[7-[(2S,4S)-4-azido-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | N(=[N+]=[N-])[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)C=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | C35H31N9O11S
